US04783453
Potassium azide (3.2 mg, 39 micromol) was added to a stirred, 0° C. solution of benzyl 2-(p-nitrobenzenesulfonyloxy)-carbapen-2-em-3-carboxylate (5.1 mg, 12 micromol) in anhydrous 5:1 (v/v) acetonitriledichloromethane. After 10 min. the mixture was applied to one 10 cm×20 cm 250 micron silica gel thin layer chromatography plate and developed with diethyl ether. The band centered at Rf 0.5 was eluted with ethyl acetate and the eluate was evaporated under vacuum to provide 1.2 mg (37%) benzyl 2-azidocarbapen-2-em-3-carboxylate.

reactant | Potassium azide | 39 micromol, 3.2 mg | [N-]=[N+]=[N-].[K+]
reactant | benzyl 2-(p-nitrobenzenesulfonyloxy)-carbapen-2-em-3-carboxylate | 12 micromol, 5.1 mg | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)OC=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C20H16N2O8S
solvent | diethyl ether | C(C)OCC | C4H10O
product | benzyl 2-azidocarbapen-2-em-3-carboxylate | 1.2 mg, 37% | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C14H12N4O3
